US05264451
The starting 4-(ethylthio)benzyl alcohol was prepared as follows. A mixture of lithium aluminum hydride (5.2 g) and tetrahydrofuran (250 mL) was cooled to 0° C. with stirring under N2 atmosphere. A solution of 4-(ethylthio)benzoic acid (25 g) in tetrahydrofuran (300 mL) was added at a rate so as to control H2 evolution. The reaction mixture was then allowed to warm to room temperature and stirred 15 hours. The mixture was cooled in ice and a solution of 15% aqueous sodium hydroxide solution was added, (6 mL) followed by water (21 mL). The mixture was stirred at ice temperature for 1 hour and for 2 hours at ambient temperature. The solution was decanted, diluted with diethyl ether and washed with saturated aqueous NaCl solution. The organic phase was dried over MgSO4, filtered through a celite pad and concentrated to give 4-(ethylthio)benzyl alcohol (20 g). This material was converted to the corresponding bromide as in Example 1 except that diethyl ether and hexane were used for the triturations rather than heptane and petroleum ether, respectively.

reactant | lithium aluminum hydride | 5.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(ethylthio)benzoic acid | 25 g | C(C)SC1=CC=C(C(=O)O)C=C1 | C9H10O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 21 mL | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 4-(ethylthio)benzyl alcohol | 20 g | C(C)SC1=CC=C(CO)C=C1 | C9H12OS
